US06156893
Preparation of (±)-1-isobutyrylamino-4-(hydroxymethyl)-2-cyclopentene
9 g of (±)-2-isobutyryl-2-azabicyclo[2.2.1]hept-5-en-3-one were dissolved in water (32 ml) and 2-butanol (84 ml) under nitrogen and cooled to 0° C. 1.37 g of sodium borohydride were added in portions over the course of 3.5 h. The mixture was stirred for a further 3 h at 20° C., and it was then adjusted to pH 2.5 with a mixture of conc. hydrochloric acid and water (1/1) and then neutralized with 2N NaOH. The solution was evaporated to 40 g. The residue was extracted with 3×80 ml of dichloromethane. The combined organic phases were completely evaporated. The resulting solid was crystallized in 25 ml of toluene. 6.8 g of title compound were obtained. The yield was 73.6%.

reactant | (±)-2-isobutyryl-2-azabicyclo[2.2.1]hept-5-en-3-one | 9 g | C(C(C)C)(=O)N1C2C=CC(C1=O)C2 | C10H13NO2
reactant | sodium borohydride | 1.37 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
solvent | water | 32 ml | O | H2O
solvent | 2-butanol | 84 ml | CC(CC)O | C4H10O
product | (±)-1-isobutyrylamino-4-(hydroxymethyl)-2-cyclopentene | 6.8 g, yield was 73.6% | C(C(C)C)(=O)NC1C=CC(C1)CO | C10H17NO2
